### PR TITLE
refactor: `module`-ize `Std.Data.DHashMap`

### PR DESCRIPTION
**Pull request by Kha**

### CODE REVIEW

File: src/Std/Data/Internal/List/Associative.lean [hunk 1]
```diff
@@ -544,7 +545,7 @@ theorem getValue?_eq_some_getValue [BEq α] {l : List ((_ : α) × β)} {a : α}
   simp [getValue]
 
 theorem getValue_cons_of_beq [BEq α] {l : List ((_ : α) × β)} {k a : α} {v : β} (h : k == a) :
-    getValue a (⟨k, v⟩ :: l) (containsKey_cons_of_beq (k := k) (v := v) h) = v := by
+    getValue a (⟨k, v⟩ :: l) (containsKey_cons_of_beq h) = v := by
```
Comment (Kha) [inline src/Std/Data/Internal/List/Associative.lean:548]: This one was pretty crazy: specifying `v` blocks unification (because it is dependent?) unless `containsKey` can be unfolded, which makes `v` vanish.

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 81fd7edd190a395e19b19f1d7b2f07854d8a42df --onto f2e06ead5436e01e585a15dcc795ccb96bf3d182`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-30 10:58:21)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 81fd7edd190a395e19b19f1d7b2f07854d8a42df --onto ae89b7ed4318b1b942c6ab741d0403f0d2738dfd`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-30 15:13:35)

File: src/Std/Data/DHashMap/Internal/Model.lean [hunk 2]
```diff
@@ -430,13 +435,13 @@ end
...
-    (reinsertAux hash data a b).1 = updateBucket data.1 data.2 a (fun l => l.cons a b) := rfl
+    (reinsertAux hash data a b).1 = updateBucket data.1 data.2 a (fun l => l.cons a b) := (rfl)
 
 theorem get?_eq_get?ₘ [BEq α] [LawfulBEq α] [Hashable α] (m : Raw₀ α β) (a : α) :
-    get? m a = get?ₘ m a := rfl
+    get? m a = get?ₘ m a := (rfl)
 
 theorem get_eq_getₘ [BEq α] [LawfulBEq α] [Hashable α] (m : Raw₀ α β) (a : α) (h : m.contains a) :
-    get m a h = getₘ m a h := rfl
+    get m a h = getₘ m a (by exact h) := (rfl)
```
Comment (datokrat) [inline src/Std/Data/DHashMap/Internal/Model.lean:444]: I'm not sure about using the private scope in parts of public signatures. We usually want that people could in principle write down any part of the signature by hand in their downstream code, and in this case, they would probably reach for some automatically-named helper declaration.

I think we can merge it how it is and I will note the homework that I need to think about the definitional equality used here. Perhaps will turn out that `public import all Std.DataDHashMap.Internal.Defs` is the right choice here or I'll make this `by exact` into an explicitly named lemma.

Comment (datokrat) [reply src/Std/Data/DHashMap/Internal/Model.lean:444]: Well, on the other hand, it's just an internal module, so perhaps it's totally fine here.

Comment (Kha) [reply src/Std/Data/DHashMap/Internal/Model.lean:444]: Hmm yes, that's a good point about any public modules

File: src/Std/Data/DHashMap/Internal/Raw.lean [hunk 3]
```diff
@@ -26,9 +30,9 @@ namespace Raw
 
 -- TODO: the next two lemmas need to be renamed, but there is a bootstrapping obstacle.
 
-theorem empty_eq [BEq α] [Hashable α] {c : Nat} : (Raw.emptyWithCapacity c : Raw α β) = (Raw₀.emptyWithCapacity c).1 := rfl
+theorem empty_eq {c : Nat} : (Raw.emptyWithCapacity c : Raw α β) = (Raw₀.emptyWithCapacity c).1 := (rfl)
 
-theorem emptyc_eq [BEq α] [Hashable α] : (∅ : Raw α β) = Raw₀.emptyWithCapacity.1 := rfl
+theorem emptyc_eq : (∅ : Raw α β) = Raw₀.emptyWithCapacity.1 := (rfl)
```
Comment (Kha) [inline src/Std/Data/DHashMap/Internal/Raw.lean:35]: Also a bit crazy: making these theorems non-rfl means that the (unused) typeclass parameters are actually enforced now, which broke a `simp` later on without these instances in the context.

Comment (datokrat) [reply src/Std/Data/DHashMap/Internal/Raw.lean:35]: Wow! 😆
